US07728030B2
(2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol hydrochloride
The aforementioned described {(S)-1-[(3-fluorophenyl)-hydroxymethyl]-3-methylbutyl}-carbamic acid tert.-butylester (4.7 g, 15.1 mmol) is dissolved in dioxane (37 mL). After addition of HCl in dioxane (37.7 mL of a 4M solution) the reaction mixture is stirred for 4 h. After evaporation of the solvent the crude product (3.7 g, 99.5%) is used in the next step without further purification.

reactant | {(S)-1-[(3-fluorophenyl)-hydroxymethyl]-3-methylbutyl}-carbamic acid tert.-butylester | 15.1 mmol, 4.7 g | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(O)C1=CC(=CC=C1)F)=O | C17H26FNO3
reactant | HCl | Cl | ClH
solvent | dioxane | 37 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-Amino-1-(3-fluorophenyl)-4-methyl-pentane-1-ol hydrochloride | Cl.N[C@H](C(O)C1=CC(=CC=C1)F)CC(C)C | InChI=1S/C12H18FNO.ClH/c1-8(2)6-11(14)12(15)9-4-3-5-10(13)7-9;/h3-5,7-8,11-12,15H,6,14H2,1-2H3;1H/t11-,12?;/m0./s1
